US05616801
To 4.31 g (15.0 mmol) of the thus obtained 4'-ethyl-N-(4-methylphenyl) -[1,1'-biphenyl]-4-amine were added 60 ml of nitrobenzene, 5.58 g (18.0 mmol) of 4'-iodine-4'-methoxy-[1,1'-biphenyl], 4.15 g of potassium carbonate, and 0.48 g of copper powder. The mixture was placed in an ester pipe and azeotropically heated for dehydration, with stirring, at 210° C. for 11 hours as a nitrogen gas was caused to flow over the mixture. The reaction mixture was then cooled to room temperature and filtered through a Celite filter to obtain a filtrate. The nitrobenzene was distilled away from the filtrate under reduced pressure. The residue was extracted with toluene, washed with water, dried by use of magnesium sulfate, and condensed under reduced pressure, whereby orange brown crystals were obtained. The thus obtained product was subjected to a silica gel column chromatography by use of a mixed solvent of cyclohexane and toluene as an eluent, and recrystallized from a mixed solvent of ethanol and toluene, whereby 4'-ethyl-N-(4'-methoxy-[1,1'-biphenyl]-4-yl)-N-(4-methylphenyl)-[1,1'-biphenyl]-4-amine (Aminobiphenyl Compound No. 2-62 in Table 3) was obtained in the form of colorless needles with a yield of 4.00 g (56.8%). The melting point of the product was 159.5° C. to 161.5° C.

reactant | 4'-ethyl-N-(4-methylphenyl) -[1,1'-biphenyl]-4-amine | C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=C(C=C1)C | C21H21N
reactant | nitrobenzene | 60 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | copper | 0.48 g | [Cu] | Cu
product | 4'-ethyl-N-(4'-methoxy-[1,1'-biphenyl]-4-yl)-N-(4-methylphenyl)-[1,1'-biphenyl]-4-amine | C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C34H31NO
